US07468375B2
Step 3: 1-(4-Fluorobenzyl)-N-hydroxy-N-(3-hydroxypropyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxamide.
The title compound was prepared by coupling of 1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid with N-(3-hydroxypropyl)hydroxylamine hydrochloride in a manner similar to step 8 of example 1. 1H NMR (CD3OD) δ ppm 8.71 (s, 1H), 8.20 (s, 1H), 7.71 (d, 1H, J=3.0 Hz), 7.26 (m, 2H), 7.05 (d, 2H, J=8.9 Hz), 6.75 (d, 1H, J=3.0 Hz), 5.55 (s, 2H), 3.90 (m, 2H), 3.65 (t, 2H, J=6.0 Hz), 1.94-2.00 (m, 2H). LCMS (API-ES, M+H+): 344.1. HRMS calcd for C18H19FN3O3 (M+H) 344.1405, found 344.1402. HPLC: 99.1% purity.

reactant | 1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=CC=C(CN2C=CC=3C2=CN=C(C3)C(=O)O)C=C1 | C15H11FN2O2
reactant | N-(3-hydroxypropyl)hydroxylamine hydrochloride | Cl.OCCCNO
product | 1-(4-Fluorobenzyl)-N-hydroxy-N-(3-hydroxypropyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=CC=C(CN2C=CC=3C2=CN=C(C3)C(=O)N(CCCO)O)C=C1 | C18H18FN3O3
